US05932606
Step C: 1-Trityl-4-methyl-5-imidazolemethylamine
To a solution of 5-azidomethyl-4-methyl-1-tritylimidazole (3.0 g, 7.9 mmol) in THF (70 ml) was added triphenylphosphine (5.18 g, 19.8 mmol). The resulting solution was refluxed for 1.5 h then water (5 ml) was added. Refluxing was continued for an additional 24 hours. After cooling to room temperature, the solvents were removed in vacuo and the crude reaction mixture was purified by chromatography on silica gel (19:1 chloroform/10% NH4OH in methanol) to give of the title compound. 1H NMR (CDCl3) d 1.40 (s, 3 H), 1.70 (br s, 2 H), 3.70 (s, 2 H), 7.10-7.35 (m, 16 H).

reactant | 5-azidomethyl-4-methyl-1-tritylimidazole | 7.9 mmol, 3.0 g | N(=[N+]=[N-])CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H21N5
reactant | triphenylphosphine | 19.8 mmol, 5.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 5 ml | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 1-Trityl-4-methyl-5-imidazolemethylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1CN)C | C24H23N3
